US08212041B2
(R)—N—((S)-1-(4-bromo-2-chlorophenyl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide
To a stirring solution of (R,Z)—N-(4-bromo-2-chlorobenzylidene)-2-methylpropane-2-sulfinamide (1370 mg, 4246 μmol) and (trifluoromethyl)trimethylsilane (943 μl, 6369 μmol) in DMF (5 mL) was added 1,3-bis(1-adamantyl)imidazol-2-ylidene (143 mg, 425 μmol). Reaction stirred at 35° C. for 18 h then quenched with sat NH4Cl (10 mL). Reaction partitioned between EtOAc (40 mL) and 5% NaHCO3 (10 mL). Organic dried over MgSO4, concentrated to and oil from toluene, then purified on silica (80 g) eluting with 20>30% EtOAc/Hex. Product isolated as a white solid.

reactant | (R,Z)—N-(4-bromo-2-chlorobenzylidene)-2-methylpropane-2-sulfinamide | 4246 μmol, 1370 mg | BrC1=CC(=C(\C=N/[S@](=O)C(C)(C)C)C=C1)Cl | C11H13BrClNOS
reactant | (trifluoromethyl)trimethylsilane | 6369 μmol, 943 μl | FC(F)(F)[Si](C)(C)C | C4H9F3Si
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)—N—((S)-1-(4-bromo-2-chlorophenyl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide | BrC1=CC(=C(C=C1)[C@@H](C(F)(F)F)N[S@](=O)C(C)(C)C)Cl | C12H14BrClF3NOS
